US07491710B2
A solution of 497 mg of 50%-pure methylphenylphosphinic acid 4-nitrophenyl ester in 8 ml of dichloromethane is stirred at ambient temperature. A suspension of 403 mg of 3-(1H-indol-2-yl)-1H-indazol-5-ol and 268 μl of 1,8-diazabicyclo[5.4.0]undec-7-ene in 12 ml of dichloromethane is added dropwise. The reaction medium is stirred at ambient temperature overnight and then evaporated to dryness under reduced pressure in a rotary evaporator. The reaction crude is purified by flash chromatography on a cartridge of 50 g of silica 15-35 μm. 300 mg of methylphenylphosphinic acid 3-(1H-indol-2-yl)-1H-indazol-5-yl ester are collected and recrystallized from ethyl acetate to obtain 220 mg of methylphenylphosphinic acid 3-(1H-indol-2-yl)-1H-indazol-5-yl ester.

reactant | methylphenylphosphinic acid 4-nitrophenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OP(=O)(C1=CC=CC=C1)C | C13H12NO4P
reactant | 3-(1H-indol-2-yl)-1H-indazol-5-ol | 403 mg | N1C(=CC2=CC=CC=C12)C1=NNC2=CC=C(C=C12)O | C15H11N3O
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 268 μl | N12CCCCCC2=NCCC1 | C9H16N2
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
product | methylphenylphosphinic acid 3-(1H-indol-2-yl)-1H-indazol-5-yl ester | 220 mg | N1C(=CC2=CC=CC=C12)C1=NNC2=CC=C(C=C12)OP(=O)(C1=CC=CC=C1)C | C22H18N3O2P
